US08389743B2
3-(5-Chloro-2-fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid isobutyl-amide
To Intermediate 11, 1-(4-Bromo-2-chloro-5-fluorobenzyl)pyrrolidine (4.0 g, 13.7 mmol) in THF (34 mL) at −78° C. (acetone/dry ice bath) was added a solution of nBuLi (5.5 mL, 13.7 mmol, 2.5 M THF). After 15 min, a precooled (−78° C.) solution of 3-oxocyclobutanecarboxylic acid (0.78 g, 6.8 mmol, in 5 mL of THF) was added via cannula. The reaction was allowed to slowly warm to rt overnight. After approximately 16 h, isobutylamine (1.4 mL, 13.7 mmol) was added, followed by 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide (50% solution in EtOAc, 6.6 mL, 10.2 mmol). After 1 hr the reaction was diluted with EtOAc and then quenched with 1N NaOH. The layers were separated and the aqueous layer was back extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography using a 120 g ISCO™ column, eluting with 5% MeOH/CH2Cl2 with 0.1% NH4OH. The product containing fractions were collected and concentrated to give the title compound (400 mg, 15% yield) as a yellow foam: Rf=0.23 (10% MeOH/CH2Cl2); LRMS m/z Calcd for C20H28Cl FN2O2, 382.9, found, 383, 385 (M+H) APCI; 1H NMR (300 MHz, CDCl3): δ 7.37 (d, J=7.0 Hz, 1H), 7.20 (d, J=11.6 Hz, 1H), 6.25-6.22 (bm, 2H), 3.68 (s, 2H), 3.09-2.84 (m, 5H), 2.57 (apt bs, 4H), 2.46-2.43 (m, 2H), 1.79-1.70 (m, 5H); 0.88 (d, J=6.6 Hz, 6H); 100 MHz 13C NMR (CDCl3) δ 177.5, 159.5 (d, JC-F=247.2), 138.3, 132.1, 128.2, 117.9 (d, JC-F=24.7 Hz), 73.2, 56.5, 54.3, 47.4, 40.1, 34.6, 28.7, 23.8, 20.3.

reactant | 1-(4-Bromo-2-chloro-5-fluorobenzyl)pyrrolidine | 13.7 mmol, 4.0 g | BrC1=CC(=C(CN2CCCC2)C=C1F)Cl | C11H12BrClFN
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | nBuLi | 13.7 mmol, 2.5 M, 5.5 mL | [Li]CCCC
reactant | 3-oxocyclobutanecarboxylic acid | 6.8 mmol, 5 mL, 0.78 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | isobutylamine | 13.7 mmol, 1.4 mL | C(C(C)C)N | C4H11N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane-2,4,6-trioxide | 10.2 mmol, 6.6 mL | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
solvent | THF | 34 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(5-Chloro-2-fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid isobutyl-amide | 400 mg, 15% yield | C(C(C)C)NC(=O)C1CC(C1)(O)C1=C(C=C(C(=C1)Cl)CN1CCCC1)F | C20H28ClFN2O2
